US05017711
The present invention provides a process for the preparation of 4,4,5,8-tetramethyl-1-oxaspiro[2.5]octane which compound can then be converted into useful 2,2,3,6-tetramethyl-cyclohexane-carbaldehyde by treating it with a Lewis type acid. The aldehyde thus obtained possesses a high degree of isomeric purity (equal or higher than 90%). The process of the invention consists in the methylenation of 2,2,3,6-tetramethyl-1-cyclohexanone to give 1,2,2,4-tetramethyl-3-methylene-cyclohexane followed by the epoxidation of the obtained compound to give 4,4,5,8-tetramethyl-1-oxaspiro[2.5]octane.

reactant | 4,4,5,8-tetramethyl-1-oxaspiro[2.5]octane | CC1(C2(CO2)C(CCC1C)C)C | C11H20O
reactant | 2,2,3,6-tetramethyl-cyclohexane-carbaldehyde | CC1(C(C(CCC1C)C)C=O)C | C11H20O
reactant | 2,2,3,6-tetramethyl-1-cyclohexanone | CC1(C(C(CCC1C)C)=O)C | C10H18O
product | 1,2,2,4-tetramethyl-3-methylene-cyclohexane | CC1C(C(C(CC1)C)=C)(C)C | C11H20
